US05025025
A solution of crude ethyl 7-cyano-5-[3-pyridyloxy)-heptanoate (1.74 g) in 50 mL of methanol saturated with ammonia is subjected to hydrogenation for 5 hours at 3 atmospheres pressure of hydrogen using Raney Nickel (1.0 ml aqueous suspension) as the catalyst. The catalyst is filtered off and washed with methanol. The filtrate is evaporated and the residue filtered through a plug of silica gel using ether as eluent to remove remaining triphenylphosphine oxide. The compound is eluted from the silica gel using methanol:triethylamine (95:5). The solvent is evaporated to yield ethyl 8-amino-5-(3-pyridyloxy)-octanoate; 1H NMR (CDCl3): delta 8.28 (br,1H), 8.19 (br,1H), 4.39 (m,1H), 4.08 (q,2H).

reactant | ethyl 7-cyano-5-[3-pyridyloxy)-heptanoate | 1.74 g | C(#N)CCC(CCCC(=O)OCC)OC=1C=NC=CC1 | C15H20N2O3
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney Nickel | 1.0 ml | [Ni] | Ni
product | ethyl 8-amino-5-(3-pyridyloxy)-octanoate | NCCCC(CCCC(=O)OCC)OC=1C=NC=CC1 | C15H24N2O3
